US08633315B2
Step 1: tert-Butyl 2-isopropoxyacetate
In a 250-mL flask, 35% aqueous sodium hydroxide (29.3 g, 256 mmol), propan-2-ol (0.785 ml, 10.3 mmol) tetrabutylammonium chloride (0.214 g, 0.769 mmol), and tert-butyl 2-bromoacetate (1.00 g, 5.13 mmol) were taken up in benzene (25 mL). The mixture was stirred at ambient temperature overnight. The reaction was concentrated to remove most of the benzene. The aqueous residue was diluted further with water (100 mL) and the aqueous phase was extracted with 75% ether-hexane (3×33 mL). The organics were combined, washed with water (10 mL) then with saturated brine (10 mL). The organics were dried over magnesium sulfate, filtered, and concentrated to afford the title compound (119 mg, 0.683 mmol, 13%).

reactant | sodium hydroxide | 256 mmol, 29.3 g | [OH-].[Na+]
reactant | propan-2-ol | 10.3 mmol, 0.785 ml, 0.214 g | CC(C)O | C3H8O
reactant | tert-butyl 2-bromoacetate | 5.13 mmol, 1.00 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | benzene | 25 mL | C1=CC=CC=C1 | C6H6
product | tert-Butyl 2-isopropoxyacetate | 0.683 mmol, 119 mg, 13% | C(C)(C)OCC(=O)OC(C)(C)C | C9H18O3
